US07115611B2
To a solution of 3.3 g (6.51 mmol) [4-(4-tert-butoxycarbonylmethoxy-3-methyl-phenyldisulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester in 30 ml dichloromethane was added under ice cooling 4.26 g (65.1 mmol) zinc powder, 15 ml acetic acid and a few drops of HCl (25%). After a few minutes, the reaction completed. Then the solution filtered, taken up in ether and washed with water. The ether solution was concentrated under reduced pressure, providing 2.86 g of almost pure (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester.

reactant | [4-(4-tert-butoxycarbonylmethoxy-3-methyl-phenyldisulfanyl)-2-methyl-phenoxy]-acetic acid tert-butyl ester | 6.51 mmol, 3.3 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SSC1=CC(=C(C=C1)OCC(=O)OC(C)(C)C)C)C)=O | C26H34O6S2
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | HCl | a few drops | Cl | ClH
product | (4-mercapto-2-methyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)S)C)=O | C13H18O3S
